US04145551
3,5-Diamino-6-chloropyrazinecarbonyloxyguanidine
Sodium metal (3.1 g., 0.135 g.at.) is dissolved in 2-propanol (500 ml.) and hydroxyguanidine hemisulfate hydrate (20.0 g., 0.075 mole) is added. The reaction mixture is heated at reflux for 1 hour then treated with N-t-butyl-3-(3,5-diamino-6-chloropyrazinecarbonyloxy)-crotonamide (20.5 g., 0.06 mole) heated at reflux for an additional hour to give product which is filtered, washed with water and dried. 3,5-Diamino-6-chloropyrazinecarbonyloxyguanidine melts at 192°-3° C. after purification by precipitation from dilute aqueous methanesulfonic acid with aqueous ammonia.

reactant | Sodium | 3.1 g | [Na] | Na
reactant | hydroxyguanidine hemisulfate hydrate | 0.075 mole, 20.0 g | O.S(=O)(=O)(O)O.ONC(=N)N.ONC(=N)N.O
reactant | N-t-butyl-3-(3,5-diamino-6-chloropyrazinecarbonyloxy)-crotonamide | 0.06 mole, 20.5 g | C(C)(C)(C)NC(\C=C(\C)/OC(=O)C1=NC(=C(N=C1N)N)Cl)=O | C13H18ClN5O3
solvent | 2-propanol | 500 ml | CC(C)O | C3H8O
product | 3,5-Diamino-6-chloropyrazinecarbonyloxyguanidine | NNC(NOC(=O)C1=NC(=C(N=C1)N)Cl)=N | C6H8ClN7O2
